US08293762B2
A mixture of beta-homophenylalanine (9.1 g, 50.9 mmol), di-tert-butyl dicarbonate (12.2 g, 56 mmol), dioxane (180 mL), water (18 mL) and TEA (8.5 mL) was stirred at room temperature overnight. After concentration and multiple strippings with toluene, 3-[(tert-butoxycarbonyl)amino]-4-phenylbutanoic acid was obtained as an oil and used directly in the next step. It was dissolved in dry dichloromethane (370 mL), Meldrum's acid (8.1 g, 56.1 mmol) and DMAP (9.7 g, 79 mmol) were added to it, the mixture was cooled to −5° C. and dicyclohexylcarbodiimide (12.6 g, 61 mmol) was added. After addition the reaction mixture was kept into the refrigerator overnight. The precipitate was filtered off and washed with dichloromethane. The filtrate was diluted with ethylacetate, washed in sequence with 10% aq KHSO4, water, brine, then concentrated to yield crude tert-butyl 1-benzyl-3-(2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-yl)-3-oxopropylcarbamate that was dissolved in ethylacetate (250 mL) and refluxed for 2 hours. After concentration and treatment with diisopropylether the crystallized compound was filtered and washed with the same solvent to give tert-butyl 2-benzyl-4,6-dioxopiperidine-1-carboxylate as a white powder in 75% overall yield. The title compound was obtained in quantitative yield after acidic treatment (4M HCl in dioxane) at room temperature.

reactant | beta-homophenylalanine | 50.9 mmol, 9.1 g | N[C@@H](CC1=CC=CC=C1)CC(=O)O | C10H13NO2
reactant | di-tert-butyl dicarbonate | 56 mmol, 12.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | dioxane | 180 mL | O1CCOCC1 | C4H8O2
solvent | water | 18 mL | O | H2O
product | 3-[(tert-butoxycarbonyl)amino]-4-phenylbutanoic acid | C(C)(C)(C)OC(=O)NC(CC(=O)O)CC1=CC=CC=C1 | C15H21NO4
